US07087599B2
Step 1: 9a-butyl-7-methoxymethoxy-4-methyl-3-trimethylsilyloxy-9,9a-dihydro-1H-fluorene
A solution of 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one (163 mg, 0.52 mmol) in anhydrous THF (2.5 mL) was cooled in an ice bath and stirred under a nitrogen atmosphere while 0.4M LDA in THF (1.9 mL, 0.78 mmol) was added by syringe. After stirring at 0° C. for 30 minutes, the solution was cooled to −78° C. (dry ice-acetone bath) and treated with chlorotrimethylsilane (0.100 mL, 0.78 mmol). The resulting mixture was allowed to slowly warm to room temperature, then stirred at room temperature overnight. The mixture was diluted with EtOAc (60 mL) and shaken with 5% aqueous NaHCO3 (30 mL). The aqueous phase was separated and extracted with more EtOAc (30 mL). The combined organics were washed with saturated brine, dried over MgSO4, filtered, and concentrated under vacuum to an oil (204 mg). The 1H NMR of this material showed a 9:1 mixture of 9a-butyl-7-methoxymethoxy-4-methyl-3-trimethylsilyloxy-9,9a-dihydro-1H-fluorene and starting material.

reactant | 9a-butyl-7-methoxymethoxy-4-methyl-1,2,9,9a-tetrahydro-3H-fluoren-3-one | 0.52 mmol, 163 mg | C(CCC)C12CC3=CC(=CC=C3C2=C(C(CC1)=O)C)OCOC | C20H26O3
reactant | LDA | 0.4M | [Li+].CC(C)[N-]C(C)C
reactant | dry ice acetone | C(=O)=O.CC(=O)C
reactant | chlorotrimethylsilane | 0.78 mmol, 0.100 mL | Cl[Si](C)(C)C | C3H9ClSi
reactant | NaHCO3 | 30 mL | C(=O)(O)[O-].[Na+]
solvent | THF | 2.5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | 60 mL | CCOC(=O)C | C4H8O2
solvent | THF | 0.78 mmol, 1.9 mL | C1CCOC1 | C4H8O
product | 9a-butyl-7-methoxymethoxy-4-methyl-3-trimethylsilyloxy-9,9a-dihydro-1H-fluorene | C(CCC)C12CC3=CC(=CC=C3C2=C(C(=CC1)O[Si](C)(C)C)C)OCOC | C23H34O3Si
